US05342953
contacting N-hydroxyethyl-2-chlorobenzylamine with sulfuryl chloride and an organic base to give N-(2-chlorobenzyl)-2,2-dioxo-1,2,3-oxathiazolidine, and

reactant | N-hydroxyethyl-2-chlorobenzylamine | OCCNCC1=C(C=CC=C1)Cl | C9H12ClNO
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | N-(2-chlorobenzyl)-2,2-dioxo-1,2,3-oxathiazolidine | ClC1=C(CN2S(OCC2)(=O)=O)C=CC=C1 | C9H10ClNO3S
